US05158946
(b) Diphenylmethyl 7β-Amino-3-(3-chloro-2,5-dihydro-2-oxofuran-4-ylthiomethyl)ceph-3-em-4-carboxylate
A stirred solution of diphenylmethyl 3-(3-chloro-2,5-dihydro-2-oxofuran-4-ylthiomethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate (770 mg) in dichloromethane (10 ml) was cooled to -15° C. to -20° C., then N-methylmorpholine (0.263 ml) was added followed by a solution of phosphorus pentachloride in dichloromethane (9.3 ml of a solution containing 40 mg ml-1). The mixture was stirred at the same temperature for 0.5 h. Methanol (2.4 ml) was then added and the mixture stirred at room temperature for 0.5 h. Water (3.2 ml) was then added and the mixture vigorously stirred for a further 0.5 h. The dichloromethane was removed on a rotary evaporator and the residue partitioned between ethyl acetate and water. The pH of the aqueous phase was adjusted to 6.2 with 1N aqueous ammonia. The organic phase was separated, washed with water and brine, dried over magnesium sulphate and evaporated. The product (447 mg) was isolated by column chromatography using gradient elution (Kieselgel, 1:1 hexane:ethyl acetate going to neat ethyl acetate). υmax (CHCl3) 1775, 1625cm-1 ; δH(CDCl3), 1.77 (2H, br s), 3.43 (1H, d, J 18.16Hz), 3.63 (1H, d, J 18.12Hz), 3.94 (1H, d, J 12.98Hz), 4.05 (1H, d, J 12.93Hz), 4.51 (1H, d, J 16.20Hz), 4.60 (1H, d, J 16.17Hz), 4.81 (1H, d, J 5.11Hz), 4.97 (1H, d, J 5.11Hz), 6.98 (1H, s), 7.25-7.45 (10H, m).

reactant | diphenylmethyl 3-(3-chloro-2,5-dihydro-2-oxofuran-4-ylthiomethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate | 770 mg | ClC=1C(OCC1SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O | C33H27ClN2O6S2
reactant | N-methylmorpholine | 0.263 ml | CN1CCOCC1 | C5H11NO
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Methanol | 2.4 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Water | 3.2 ml | O | H2O
product | Diphenylmethyl 7β-Amino-3-(3-chloro-2,5-dihydro-2-oxofuran-4-ylthiomethyl)ceph-3-em-4-carboxylate | 447 mg | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=C(C(OC2)=O)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H21ClN2O5S2
